US06610853B1
To a solution obtained by dissolving 3-methoxy-2-methylpyridine (14.8 g, 0.12 mol) in acetic acid (44 g, 0.12×2.5 mol) was added 31% hydrogen peroxide (33 g, 0.12×2.5 mol), followed by stirring in an oil bath at 100° C. for 16 hours. The reaction solution was then cooled and poured into iced-water. To the mixture was then added sodium carbonate (solid) so as to be weak alkalinity. The resultant solution was extracted with ethyl acetate to obtain 1.45 g (percent yield: 16.7%) of 3-methoxy-2-methylpyridine-N-oxide IR KBr cm−1: 1668, 1647, 1584, 1503, 1302, 1266, 1188, 1128, 792. 1H-NMR (60 MHz, CDCl3, δ): 2.4 (3R, s, CH3), 3.8 (3H, s, OCH3), 6.5-7.2 (2H, m, pyridine ring H×2), 7.7-8.0 (1H, m, pyridine ring H).

reactant | 3-methoxy-2-methylpyridine | 0.12 mol, 14.8 g | COC=1C(=NC=CC1)C | C7H9NO
reactant | acetic acid | 2.5 mol, 44 g | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 2.5 mol, 33 g | OO | H2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | KBr | [K+].[Br-]
solvent | water | O | H2O
product | 3-methoxy-2-methylpyridine-N-oxide | 1.45 g, yield: 16.7% | COC=1C(=[N+](C=CC1)[O-])C | C7H9NO2
